US05364866
N-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-3-fluorophthalimide
A mixture of 2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethylamine (2.37 gm, 8.98 mmoles), 3-fluorophthalic acid (1.82 in, 9.9 moles) and dicyclohexylcarbodiimide (DCC, 5.5 gm, 26.7 mmoles, 2.6 eq) in dichloromethane (DCM, 250 ml) was stirred at room temperature for 18 hrs. The solids were filtered off. The organic solution was concentrated down. The residue was purified on a flash chromatography column (SiO2, 50 in; eluted with 1% CH3OH:99% DCM, 1.4 liter; 2-6% CH3OH:DCM, liter). The desired product thus obtained weighed 2.64 gm (71%) as an off-white solid. Recrystallization from hot ethanol gave 1.41 gm of white crystals, m.p.=142°-143° C.

reactant | 2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethylamine | 8.98 mmoles, 2.37 gm | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN)C=C1 | C14H18FN3O
reactant | 3-fluorophthalic acid | 9.9 moles | FC1=C(C(C(=O)O)=CC=C1)C(=O)O | C8H5FO4
reactant | dicyclohexylcarbodiimide | 26.7 mmoles, 5.5 gm, 2.6 eq | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | N-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-3-fluorophthalimide | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN2C(C=3C(C2=O)=C(C=CC3)F)=O)C=C1 | C22H19F2N3O3
